data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3123,3515,[CH:9]#[N+:10][C-:11]([C:12]#[N:13])[C:14]([CH3:15])=[O:16].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:11]([C:12]#[N:13])([C:14]([CH3:15])=[O:16])[N:10]=[CH:9]1,water,298.15,13.342240542634531,-34.647774392515146
1060,1155,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[O+:17][CH-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[CH:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[O:17][C:14]3([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,18.47579675814917,-58.7764821996911
615,675,[CH3:18][N-:19][N+:20]#[C:21][C:22]#[N:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[N:19]([CH3:18])[N:20]=[C:21]3[C:22]#[N:23],water,298.15,13.681541090905116,-61.9436703233753
928,1006,[CH3:12][CH-:13][O+:14]=[C:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[CH:13]([CH3:12])[O:14][C:15]3([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,12.297640192576804,-65.92058585874904
4920,5605,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C-:19]([CH3:20])[N+:21]([CH3:22])=[C:23]([CH3:24])[C:25]#[N:26]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([O:16][CH3:15])=[O:18])([CH3:20])[N:21]([CH3:22])[C:23]2([CH3:24])[C:25]#[N:26],water,298.15,25.234970287253752,-6.950316595842935
4501,5134,[CH3:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[O+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])([C:14]#[N:15])[O:16][C:17]1([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,25.345019243929443,-19.11083312702588
1322,1451,[CH3:13][NH:14][C:15](=[O:16])[C:17]([CH3:18])=[N+:19]([CH3:20])[C-:21]([C:22]#[N:23])[C:24]#[N:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:21]([C:22]#[N:23])([C:24]#[N:25])[N:19]([CH3:20])[C:17]2([C:15]([NH:14][CH3:13])=[O:16])[CH3:18],water,298.15,22.95902322718445,-11.69801582461356
1414,1556,[CH3:11][O:12][C:13](=[O:14])[N-:15][N+:16]([CH3:17])=[C:18]([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:18]([C:19]#[N:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:16]([CH3:17])[N:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,25.96725185085804,-4.227213551320602
2901,3224,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[N:7]=[O+:8][NH-:9]>>[CH2:1]1[CH2:2][NH:9][O:8][N:7]1[C:5]([NH:4][CH3:3])=[O:6],water,298.15,8.047141800922864,-57.57811828414299
2031,2254,[CH3:17][O:18][C:19](=[O:20])[C:21](=[O+:22][CH-:23][C:24]([CH3:25])=[O:26])[C:27]([CH3:28])=[O:29].[CH3:1][C:2](=[O:3])[C:4]([C:5]([CH3:6])=[O:7])=[C:8]([C:9]([F:10])([F:11])[F:12])[C:13]([F:14])([F:15])[F:16]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH:23]([C:24]([CH3:25])=[O:26])[O:22][C:21]1([C:19]([O:18][CH3:17])=[O:20])[C:27]([CH3:28])=[O:29],water,298.15,23.66254518473525,-18.91566376309201
4855,5538,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[NH+:12][C-:13]([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:22](=[O:23])[NH:24][CH3:25])[NH:12][C:13]1([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21],water,298.15,30.934645499809186,-5.634935304746946
4778,5456,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19](-[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[o+:26]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]1([C:13]([O:12][CH3:11])=[O:14])[O:16][C:17](=[O:18])[C:19]2([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[O:26]1,water,298.15,14.099660399264652,-19.777549626862744
